US04024272
The starting material can be obtained by condensation of 3-amino-4-chloroanisole with acetonedicarboxylic acid dimethyl ester to give 4-oxo-5-methoxy-8-chloro-1,4-dihydro-quinoline-2-acetic acid methyl ester, hydrogenation on 5% Pd-on-charcoal in dioxan at 6 atmospheres and 60° to give 4-oxo-5-methoxy-1,4-dihydroquinoline-2-acetic acid methyl ester, reaction with dimethyl sulphate in sodium hydroxide solution to give 1-methyl-4-oxo-5-methoxy-1,4-dihydroquinoline-2-acetic acid, hydrogenation on PtO2 in methanol at 20° and normal pressure to give 1-methyl-4-oxo-5-methoxy-1,2,3,4-tetrahydroquinoline-2-acetic acid, reaction, via the chloride and the amide, to give the nitrile, ether splitting by means of BBr3 to give 1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydroquinoline-2-acetonitrile, reaction with Raney nickel to give 1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydroquinoline-2-acetaldehyde, condensation with 2-phenyl-2-thiazolin-5-one to give 2-phenyl-4-[2-(1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydro-2-quinolyl)-ethylidene]-2-thiazolin-5-one, condensation with acetone dicarboxylic acid monomethyl ester-monoamide to give 4-thiobenzamido-1,4,4a,5,5a,6,11,12-octahydro-3,10,12-trihydroxy-6-methyl-1,11-dioxo-6-aza-naphthacene-2-carboxamide (mixture of stereoisomers), epimerization with pyridine to give 4-de-dimethylamino-4-thiobenzamido-6-methyl-12a-dehydroxy-6-aza-tetracycline and hydroxylation.

reactant | 1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydroquinoline-2-acetonitrile | CN1C(CC(C2=C(C=CC=C12)O)=O)CC#N | C12H12N2O2
reactant | 1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydroquinoline-2-acetaldehyde | CN1C(CC(C2=C(C=CC=C12)O)=O)CC=O | C12H13NO3
reactant | 2-phenyl-2-thiazolin-5-one | C1(=CC=CC=C1)C=1SC(CN1)=O | C9H7NOS
reactant | 2-phenyl-4-[2-(1-methyl-4-oxo-5-hydroxy-1,2,3,4-tetrahydro-2-quinolyl)-ethylidene]-2-thiazolin-5-one | C1(=CC=CC=C1)C=1SC(C(N1)=CCC1N(C2=CC=CC(=C2C(C1)=O)O)C)=O | C21H18N2O3S
catalyst | Raney nickel | [Ni] | Ni
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-thiobenzamido-1,4,4a,5,5a,6,11,12-octahydro-3,10,12-trihydroxy-6-methyl-1,11-dioxo-6-aza-naphthacene-2-carboxamide | C(C1=CC=CC=C1)(=S)NC1C(=C(C(C2C(C3C(C4=C(C=CC=C4N(C3CC12)C)O)=O)O)=O)C(=O)N)O | C26H25N3O6S
